US05081131
6-Bromo-N-(3-(1H-imidazol-1-yl)-2-methylpropyl)benz(cd)indol-2-amine dihydrochloride
The free base of the title compound was prepared by the procedure of Example 55, employing 2.8 grams of 3-(1H-imidazol-1-yl)-2-methylpropanamine, 5.3 grams of 6-bromobenz(cd)indol-2-thiol, 6.45 grams of mercuric acetate, and 500 ml of ethanol. The crude free base was purified by the chromatographic procedure of Example 46, 5.5 grams of product being obtained. This was converted to the dihydrochloride salt by treatment with excess 2.3N ethanolic hydrogenchloride, followed by precipitation with acetone. The yield was 1.2 grams and the mp 180° C. with decomposition.

reactant | 3-(1H-imidazol-1-yl)-2-methylpropanamine | 2.8 grams | N1(C=NC=C1)CC(CN)C | C7H13N3
reactant | 6-bromobenz(cd)indol-2-thiol | 5.3 grams | BrC=1C=2C3=C(C(=NC3=CC1)S)C=CC2 | C11H6BrNS
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrogenchloride | 2.3N | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-Bromo-N-(3-(1H-imidazol-1-yl)-2-methylpropyl)benz(cd)indol-2-amine dihydrochloride | Cl.Cl.BrC=1C=2C3=C(C(=NC3=CC1)NCC(CN1C=NC=C1)C)C=CC2 | InChI=1S/C18H17BrN4.2ClH/c1-12(10-23-8-7-20-11-23)9-21-18-14-4-2-3-13-15(19)5-6-16(22-18)17(13)14;;/h2-8,11-12H,9-10H2,1H3,(H,21,22);2*1H
